US07273877B2
Ethyl 4,6-dichloronicotinate (31.62 g, 144.0 mmol) and 4-Ethyl-2-fluoro-phenylamine (20.0 g, 144.0 mmol) were dissolved in EtOH (200 mL), to which was added conc. HCl (6 drops) as for Example 1, alternate Step A to give 6-Chloro-4-(4-ethyl-2-fluoro-phenylamino)-nicotinic acid ethyl ester (46.50 g, 99%). (APCI+) calcd for C16H18ClFIN2O2 322.76 (M−1), found 321.0.

reactant | Ethyl 4,6-dichloronicotinate | 144.0 mmol, 31.62 g | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | 4-Ethyl-2-fluoro-phenylamine | 144.0 mmol, 20.0 g | C(C)C1=CC(=C(C=C1)N)F | C8H10FN
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | HCl | 6 drops | Cl | ClH
product | 6-Chloro-4-(4-ethyl-2-fluoro-phenylamino)-nicotinic acid ethyl ester | 46.50 g, 99% | C(C)OC(C1=CN=C(C=C1NC1=C(C=C(C=C1)CC)F)Cl)=O | C16H16ClFN2O2
